US05021576
C. N-(2,6-dichlorophenyl)-N-(4-methoxyphenyl)chloroacetamide
Under anhydrous conditions, a mixture of N-(4-methoxyphenyl)-2,6-dichloroaniline (20.2 g, 75.4 mmmol) in 175 mL of chloroacetyl chloride is heated at reflux for 1 hour. The excess acid chloride is evaporated in vacuo and the residue partitioned between saturated NaHCO3 solution and ethyl acetate (30 mL each). The organic phase is washed with brine (30 mL) and dried (Na2SO4). Removal of solvent affords an amber oil. Crystallization of the crude oil from methanol affords the title product (16.63 g, 64%, white needles, m.p. 105°-106° C., lit: 127°-128° C. from methanol) as a 1:1 mixture of rotamers.

reactant | N-(4-methoxyphenyl)-2,6-dichloroaniline | 20.2 g | COC1=CC=C(C=C1)NC1=C(C=CC=C1Cl)Cl | C13H11Cl2NO
reactant | chloroacetyl chloride | 175 mL | ClCC(=O)Cl | C2H2Cl2O
product | N-(2,6-dichlorophenyl)-N-(4-methoxyphenyl)chloroacetamide | 16.63 g, 64% | ClC1=C(C(=CC=C1)Cl)N(C(CCl)=O)C1=CC=C(C=C1)OC | C15H12Cl3NO2
